** sch_path: sim/pdk-smoke/testbench/tb_pdk_smoke.sch
**.subckt tb_pdk_smoke
V1 VDD 0 'vsup'
.save i(v1)
R1 VDD VG 1meg m=1
XM1 VG VG 0 0 sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1 m=1
**.ends
.end
